US04617146
7.3 g of 4,5,6,7-tetrahydro-4,4,7,7-tetramethyl-2-indanecarboxylic acid are dissolved in 150 ml of tetrahydrofuran and treated slowly while cooling with ice and stirring vigorously with 47.3 ml of methyl lithium (1.6 molar in ether). After stirring for 3 hours at room temperature, the mixture is poured on to ice, extracted with ether, washed with water, dried over sodium sulphate and evaporated. After distillation of the crude product, there are obtained 5.6 g of 2,2,5,5-tetramethyl-bicyclo[4.3.0]non-1(6)-en-8-yl methyl ketone as a colourless liquid of boiling point 53°-60° C./0.01 mm Hg.

reactant | 4,5,6,7-tetrahydro-4,4,7,7-tetramethyl-2-indanecarboxylic acid | 7.3 g | CC1(C=2CC(CC2C(CC1)(C)C)C(=O)O)C | C14H22O2
reactant | methyl lithium | 1.6 molar, 47.3 ml | C[Li]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2,2,5,5-tetramethyl-bicyclo[4.3.0]non-1(6)-en-8-yl methyl ketone | 5.6 g | CC(=O)C1CC=2C(CCC(C2C1)(C)C)(C)C | C15H24O
